US07297704B2
2,3,4,9-tetrahydro-1H-carbazole-3-carboxamide
2,3,4,9-tetrahydro-1H-carbazole-3-carboxylic acid (30.4 g, 141 mmol), was suspended in 450 ml of methylene chloride and cooled to 0° C. Oxalyl chloride (14.8 mL, 169 mmol) was added dropwise, followed by two drops of DMF. The resulting mixture was allowed to warm to room temperature and was stirred for 24 h. After re-cooling to 0° C., 450 mL of conc. aqueous ammonium hydroxide were added dropwise. The yellow precipitate that formed was collected by vacuum filtration. After drying, the title compound weighed 17.4 g (58%).

reactant | 2,3,4,9-tetrahydro-1H-carbazole-3-carboxylic acid | 141 mmol, 30.4 g | C1CC(CC=2C3=CC=CC=C3NC12)C(=O)O | C13H13NO2
reactant | Oxalyl chloride | 169 mmol, 14.8 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | ammonium hydroxide | 450 mL | [OH-].[NH4+]
solvent | methylene chloride | 450 ml | C(Cl)Cl | CH2Cl2
catalyst | DMF | two drops | CN(C)C=O | C3H7NO
product | 2,3,4,9-tetrahydro-1H-carbazole-3-carboxamide | C1CC(CC=2C3=CC=CC=C3NC12)C(=O)N | C13H14N2O
